US07098212B2
N-[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acetyl]-methanesulfonamide
To a solution of N-[(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acetic acid (0.045 g, 0.10 mmol) in dichloromethane (2 mL) was added 4-dimethylaminopyridine (0.018 g, 0.15 mmol), and 1,3-dicyclohexylcarbodiimide (0.023 g, 0.11 mmol). The resulting reaction mixture was stirred at ambient temperature for 20 minutes, and then treated with methanesulfonamide (0.011 g, 0.12 mmol). The reaction was stirred at ambient temperature for 18 hours, filtered through a pad of celite and the resulting filter cake was washed with dichloromethane. The combined organics were concentrated in vacuo and purified by silica gel chromatography followed by trituration with dichloromethane to give the title compound (0.037 g, LRMS: 525.3, 527.2).

reactant | (5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acetic acid | 0.10 mmol, 0.045 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)CC(=O)O | C22H25ClFN3O4
reactant | 1,3-dicyclohexylcarbodiimide | 0.11 mmol, 0.023 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methanesulfonamide | 0.12 mmol, 0.011 g | CS(=O)(=O)N | CH5NO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.15 mmol, 0.018 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-acetyl]-methanesulfonamide | 0.037 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)CC(=O)NS(=O)(=O)C | C23H28ClFN4O5S
